US07576215B2
ETHYL[4-({3-[3-BENZYL-8-(TRIFLUOROMETHYL)QUINOLIN-4-YL]PHENOXY}METHYL)PHENYL]ACETATE
The title compound was prepared from 3-[3-benzyl-8-(trifluoromethyl)quinolin-4-yl]phenol and (4-Bromomethyl-phenyl)-acetic acid propyl ester as in the procedure of Example 43. MS (ESI) m/z 556;

reactant | 3-[3-benzyl-8-(trifluoromethyl)quinolin-4-yl]phenol | C(C1=CC=CC=C1)C=1C=NC2=C(C=CC=C2C1C=1C=C(C=CC1)O)C(F)(F)F | C23H16F3NO
reactant | (4-Bromomethyl-phenyl)-acetic acid propyl ester | C(CC)OC(CC1=CC=C(C=C1)CBr)=O | C12H15BrO2
product | ETHYL[4-({3-[3-BENZYL-8-(TRIFLUOROMETHYL)QUINOLIN-4-YL]PHENOXY}METHYL)PHENYL]ACETATE | C(C)OC(CC1=CC=C(C=C1)COC1=CC(=CC=C1)C1=C(C=NC2=C(C=CC=C12)C(F)(F)F)CC1=CC=CC=C1)=O | C34H28F3NO3
